US05578607
A mixture of 6-amino-4-cyano-5,8-dimethylquinoline (2.0 g, 10.15 mmol), di-2-pyridyl thionocarbonate (2.52 g, 10.86 mmol), dimethylaminopyridine (0.266 g, 2.18 mmol) and methylene chloride (62 mL) is stirred at room temperature for 1.5 hours. Evaporation affords a residue which is purified by chromatography through a short column consisting of layers of sand/flash silica gel/sand, using methylene chloride as eluent, to give 4-cyano-5,8-dimethyl-6-isothiocyanatoquinoline.

reactant | 6-amino-4-cyano-5,8-dimethylquinoline | 10.15 mmol, 2.0 g | NC=1C(=C2C(=CC=NC2=C(C1)C)C#N)C | C12H11N3
reactant | di-2-pyridyl thionocarbonate | 10.86 mmol, 2.52 g | C1=CC=NC(=C1)OC(=S)OC2=CC=CC=N2 | C11H8N2O2S
reactant | dimethylaminopyridine | 2.18 mmol, 0.266 g | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | methylene chloride | 62 mL | C(Cl)Cl | CH2Cl2
product | 4-cyano-5,8-dimethyl-6-isothiocyanatoquinoline | C(#N)C1=CC=NC2=C(C=C(C(=C12)C)N=C=S)C | C13H9N3S
